US05900213
This compound was prepared by chlorination of 3,5-di-t-butylbenzoic acid with thionyl chloride using standard procedures to give 3,5-di-t-butylbenzoyl chloride. 3.26 g (12.9 mmol) of the chloride was then reacted with 1.95 g (16.8 mmol) of N,N-diethylethylenediamine in dry chloroform. The reaction mixture was concentrated by evaporation of chloroform and treated with sodium bicarbonate in a mixture of ethanol and water. Following extraction with chloroform, the combined chloroform extracts were dried and concentrated, upon which the amide began to crystallize. Without further purification, the amide was reduced with lithium aluminum hydride in THF using standard procedures. After quenching and filtration of the reaction mixture, the filtrate was dried and concentrated then distilled under reduced pressure to yield 2.00 g (49%) of the diamine.(bp 105-108°, 10 v). Purity by GC>99%.

reactant | 3,5-di-t-butylbenzoic acid | C(C)(C)(C)C=1C=C(C(=O)O)C=C(C1)C(C)(C)C | C15H22O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3,5-di-t-butylbenzoyl chloride | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1)C(C)(C)C | C15H21ClO
